2101-09-05 07:39:00 Physician Resident Progress Note
Chief Complaint: Sepsis, ventral hernia repair, altered mental status.
   24 Hour Events:
 MULTI LUMEN - START [**2101-9-4**] 10:15 PM
 URINE CULTURE - At [**2101-9-5**] 12:00 AM
   No acute events overnight.
   Allergies:
   Codeine
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2101-9-4**] 11:10 PM
   Vancomycin - [**2101-9-5**] 12:23 AM
   Metronidazole - [**2101-9-5**] 02:21 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2101-9-5**] 04:35 AM
   Pantoprazole (Protonix) - [**2101-9-5**] 05:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-9-5**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.9
C (100.3
   HR: 119 (109 - 122) bpm
   BP: 131/58(76) {108/51(70) - 138/98(106)} mmHg
   RR: 25 (20 - 35) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 12 (10 - 12)mmHg
   Total In:
                                                                  1,146 mL
                                                                  1,174 mL
   PO:
   TF:
   IVF:
                                                                    216 mL
                                                                  1,174 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,610 mL
   Urine:
                                                                  1,055 mL
   NG:
                                                                    500 mL
   Stool:
   Drains:
                                                                     55 mL
   Balance:
                                                                  1,146 mL
                                                                   -436 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   Gen: Ill appearing. Lethargic, moaning, and responsive to noxious
   stimuli, unable to follow commands or answer questions
   HEENT: Perrl, sclerae anicteric, OP clear. NGT.
   CV: Nl S1+S2
   Pulm: Rhonchorous bilaterally
   Abd: Large vertical incision with dressing C/D/I, two JP drains with
   serosanguinous drainage. Not rigid or tense. No signs of involuntary
   guarding.
   Ext: RUE hand swollen with warmth
   Labs / Radiology
   168 K/uL
   8.5 g/dL
   133 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.6 mEq/L
   6 mg/dL
   104 mEq/L
   139 mEq/L
   24.1 %
   25.2 K/uL
        [image002.jpg]
                            [**2101-9-4**]  10:34 PM
                            [**2101-9-5**]  03:23 AM
   WBC
   21.6
   25.2
   Hct
   26.1
   24.1
   Plt
   155
   168
   Cr
   0.5
   0.5
   Glucose
   198
   133
   Other labs: PT / PTT / INR:16.7/30.5/1.5, Differential-Neuts:84.6 %,
   Lymph:8.8 %, Mono:5.8 %, Eos:0.7 %, Ca++:7.8 mg/dL, Mg++:2.5 mg/dL,
   PO4:2.0 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 1721**] is a 68 year old female with seizure disorder now POD 4
   with fever, mental status change, and tachycardia.
   .
   # Sepsis: Patient febrile and tachycardic with leukocytosis this
   afternoon in setting of recent surgery suggestive of SIRS/sepsis.  Most
   likely source at this time is post-operative abdominal wound
   infection.  She has had a CT abdomen and pelvis and CTH that, per wet
   read, were negative for new source of infection.  She also has a UA
   that were negative, UTI less likely.  She also had a RIJ placed
   yesterday morning, making line associated infection unlikely.  CXR this
   morning read as LLL infiltrate, although this appears more likely to be
   retrocardiac effusion with associated atelectasis.  WBC this AM
   trending down to 25.2.
   - Broad antibiotic therapy with cipro, flagyl, vancomycin for adequate
   surgical and abdominal infectious processes.
   - Follow-up blood and urine cultures
   - Follow-up radiology studies.
   - Monitor fever curve, WBC, lactate
   - Per neuro, would like LP to rule out meningitis today.
   - C. diff and stoolx3
   .
   # Altered mental status: Most likely secondary to infectious
   process/sepsis.  Unclear at this time if patient had a true seizure as
   opposed to delirium.  Infection as well as her antibiotics
   (ciprofloxacin) may lower her seizure threshold.  Patient was evaluated
   by neurology, which recommended loading with dilantin, imaging, and
   LP.
   - Monitor mental status.
   - Per neuro, EEG, LP, and consider MRI.
   - Continue dilantin and primidone.
   .
   # Ventral hernia repair: Patient is POD 4 from ventral hernia repair,
   LOA, and fascial release, now likely complicated by infection.
   - Antibiotics as above
   - Follow-up with general and plastic surgery
   - Dilaudid prn with RR and sedation hold parameters.
   .
   # Anemia: Hct this AM of 24.1 down from 26.1 yesterday and 32.8 on
   admission. Patient at baseline has low MCV likely from iron defiency
   anemia. Acute hematocrit drop likely secondary to post-operative
   bleeding versus hemolysis.
   - Hemolysis labs
   - Trend hematocrit Q12H
   - Active type and screen.
   - Transfuse for hct<21 or earlier if signs of end organ damage.
   .
   # Right hand swelling: Patient with new RUE swelling today of hand with
   associated warmth concerning for DVT versus cellulitis.
   - RUE ultrasound to r/o DVT.
   .
   # Thyroid: Continue levothyroxine 12.5 mcg iv daily
   .
   # Recurrent spontaneous abortions: Patient with 7 spontaneous
   miscarriages.  Family history significant for recurrent miscarriages
   and CVA concerning for hereditary thrombophilia.  It is possible that
   her mental status change was due to a new thromboembolic CNS insult,
   although this is less likely in setting of fever, leukocytosis, and
   tachycardia.  Would recommend outpatient work-up.
   - Will consider MR, especially if CTH final read is concerning.
   .
   # FEN: NPO, TPN held. Replete as necessary. MIVF
   .
   # PPx: Heparin SQ, PPI
   .
   # Access: RIJ
   .
   # Code: Full
   .
   # Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2101-9-4**] 10:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2101-09-05 09:29:00 Physician Attending Progress Note
24 Hour Events:
   68F transferred from plastic surgery service overnight for altered
   mental status.  Head CT and abdominal CT obtained overnight without
   signficant abnormality.  She continued to be febrile overnight, but was
   hemodynamically stable and had adequate oxygenation. She has no
   improvement in her mental status.
   Allergies:
   Codeine: Unknown
   Sulfa (Sulfonamides): Unknown
   Last dose of Antibiotics:
   Ciprofloxacin - [**2101-9-4**] 11:10 PM
   Vancomycin - [**2101-9-5**] 12:23 AM
   Metronidazole - [**2101-9-5**] 02:21 AM
   ICU medications:
   Pantoprazole (Protonix)
   Hydromorphone (Dilaudid)
   Insulin Sliding scale
   APAP prn
   Dilantin 100mg q12
   Synthroid
   Heparin SQ
   Primidone
   Flowsheet Data as of  [**2101-9-5**] 09:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 124 (109 - 124) bpm
   BP: 147/64(85) {108/51(70) - 147/98(106)} mmHg
   RR: 20 (19 - 35) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 16 (10 - 16)mmHg
   Total In:
                                                                  1,146 mL
                                                                  1,415 mL
   PO:
   TF:
   IVF:
                                                                    216 mL
                                                                  1,415 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,750 mL
   Urine:
                                                                  1,195 mL
   NG:
                                                                    500 mL
   Stool:
   Drains:
                                                                     55 mL
   Balance:
                                                                  1,146 mL
                                                                   -335 mL
   Respiratory support
   O2 Delivery Device: 2L Nasal cannula
   SpO2: 99%
   Physical Examination
   Gen:  ill appearing, lethargic
   Chest:  Clear but limited exam because of patient vocalization
   CV: RRR no murmur
   ABD:  Abdominal binder in place s/p ventral hernia repair, JP drains w/
   serosanginous fluid; non-distended
   Ext:  Warm extremities, no edema, pneumoboots
   Neuro:  awake, oriented to her name,  but not following commands
   Labs / Radiology
   8.5 g/dL
   168 K/uL
   133 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.6 mEq/L
   6 mg/dL
   104 mEq/L
   139 mEq/L
   24.1 %
   25.2 K/uL
        [image002.jpg]
                            [**2101-9-4**]  10:34 PM
                            [**2101-9-5**]  03:23 AM
   WBC
   21.6
   25.2
   Hct
   26.1
   24.1
   Plt
   155
   168
   Cr
   0.5
   0.5
   Glucose
   198
   133
   Other labs: PT / PTT / INR:16.7/30.5/1.5, Differential-Neuts:84.6 %,
   Lymph:8.8 %, Mono:5.8 %, Eos:0.7 %, Ca++:7.8 mg/dL, Mg++:2.5 mg/dL,
   PO4:2.0 mg/dL
   CXR:  Generally clear, low lung volumes, no evidence of effusion or PNA
   Assessment and Plan
   68F with fever and altered mental status; post-op from ventral hernia
   repair.
   1.  ID:  Fevers/AMS
 unclear source of infection, though suspected
   post-op infection.  Leukocytosis 24k.  No reported stool; UA negative,
   cultures negative to date.  No evidence of septic shock.  CVP 16,
   preserved MAP.
   - Continue broad antibiotics of cipro/vanco/flagyl
   - Lumbar puncture
   - Await culture results, review abdominal CT
   - Send cdifff if has stool
   2.  Neuro:  AMS
 global encephalopathy likely in setting of infectious
   process.  Also she has history of seizures, on anti-convulsants.  Head
   CT negative.
   - Appreciate neuro input
 will obtain EEG today; LP
   - MRI pending other studies, would not tolerate currently and no focal
   deficit
   - Minimize medications that might alter her mental status, but requires
   dilaudid for pain
   ICU Care
   Nutrition: Currently NPO for altered mental status
   Glycemic Control:  insulin sliding scale
   Lines:
   Multi Lumen - [**2101-9-4**] 10:15 PM
   Prophylaxis:
   DVT:  heparin SQ
   Stress ulcer:  PPI
   Code status:  Full code
   Disposition :  Remain in ICU today
   Time Spent : 45 min

2101-09-06 07:22:00 Physician Resident Progress Note
Chief Complaint: Ventral hernia repair, sepsis
   24 Hour Events:
 FEVER - 101.8
F - [**2101-9-5**] 08:00 PM
   - LP negative - Protein 18, glucose 79, WBC 1
   - A/VBG pCO2 41
   - Neuro: ?Toxic-metabolic encephalopathy; recommend LP, EEG, dilantin
   100mg Q12 hours (higher if + seizure activity on EEG with serum target
   13 because low albumin), MRI if concern for endocarditis
   - EEG not done yet
   - RUE ultrasound - Defer until Tuesday
   - Cultures negative to date
   - Tachycardic to 130s, sBP 170s - increased dilaudid to 0.5-1mg Q3
   hours for better pain control; repositioning also helped
   - [**Doctor First Name **] Curtain (patient's case manager), called re: psych history and
   meds ([**Telephone/Fax (1) 1742**])
   Allergies:
   Codeine
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2101-9-4**] 11:10 PM
   Levofloxacin - [**2101-9-5**] 11:15 AM
   Vancomycin - [**2101-9-5**] 11:30 PM
   Metronidazole - [**2101-9-6**] 12:15 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2101-9-5**] 08:15 PM
   Hydromorphone (Dilaudid) - [**2101-9-6**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-9-6**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 36.8
C (98.3
   HR: 127 (112 - 133) bpm
   BP: 146/83(97) {125/64(79) - 177/101(107)} mmHg
   RR: 18 (17 - 32) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 4 (-6 - 140)mmHg
   Total In:
                                                                  4,081 mL
                                                                    477 mL
   PO:
   TF:
   IVF:
                                                                  3,763 mL
                                                                    173 mL
   Blood products:
   Total out:
                                                                  3,505 mL
                                                                  1,240 mL
   Urine:
                                                                  2,720 mL
                                                                  1,110 mL
   NG:
                                                                    600 mL
                                                                     50 mL
   Stool:
   Drains:
                                                                    185 mL
                                                                     80 mL
   Balance:
                                                                    576 mL
                                                                   -763 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.47/41/50/26/5
   Physical Examination
   Gen: Ill appearing. Lethargic, moaning, and responsive to noxious
   stimuli, able to follow commands and answer questions
   HEENT: Perrl, sclerae anicteric, OP clear. NGT.
   CV: Nl S1+S2
   Pulm: Rhonchorous bilaterally
   Abd: Large vertical incision with dressing C/D/I, two JP drains with
   serosanguinous drainage. Not rigid or tense. No signs of involuntary
   guarding.
   Ext: RUE hand swollen with warmth
   Labs / Radiology
   185 K/uL
   7.6 g/dL
   142 mg/dL
   0.5 mg/dL
   26 mEq/L
   2.9 mEq/L
   7 mg/dL
   105 mEq/L
   140 mEq/L
   21.8 %
   22.0 K/uL
        [image002.jpg]
                            [**2101-9-4**]  10:34 PM
                            [**2101-9-5**]  03:23 AM
                            [**2101-9-5**]  11:15 AM
                            [**2101-9-5**]  02:17 PM
                            [**2101-9-6**]  04:09 AM
   WBC
   21.6
   25.2
   23.6
   22.0
   Hct
   26.1
   24.1
   22.6
   21.8
   Plt
   155
   168
   164
   185
   Cr
   0.5
   0.5
   0.5
   TCO2
   31
   Glucose
   198
   133
   142
   Other labs: PT / PTT / INR:15.7/25.8/1.4, Alk Phos / T Bili:/1.1,
   Differential-Neuts:85.8 %, Lymph:7.0 %, Mono:6.6 %, Eos:0.4 %, Lactic
   Acid:1.3 mmol/L, LDH:186 IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:1.0
   mg/dL
   Imaging: CXR: Additional increase in the left basal opacity is
   demonstrated and it is again
   concerning for developing pneumonia. Right basal opacity is unchanged
   consistent with atelectasis. NG tube and right internal jugular line
   are in
   unchanged position. Small bilateral pleural effusions cannot be
   excluded. No
   evidence of failure is present.
   Microbiology: CSF, blood, urine NGTD
   Assessment and Plan
   Ms. [**Known lastname 1721**] is a 68 year old female with seizure disorder now POD 4
   with fever, mental status change, and tachycardia.
   .
   # Altered mental status/fever/tachycardia: Concerning on transfer for
   sepsis picture given meeting SIRS critieria.  She has been normotensive
   to hypertensive overnight, likely with elevated SBP secondary to pain.
   Also discovered yesterday that patient has bipolar disorder and is on
   valium, ativan, wellbutrin, seroquel, and remeron on at home.  Current
   mental status change, low grade fever, tachycardia likely has component
   of benzodiazepine withdrawl given significant home dose of benzos that
   patient has not received while hospitalized.  We have been unable to
   find a source to her infection with negative LP, UA, and CTAP as well
   as cultures NGTD.  CXR is also underwhelming with regard to LLL
   infiltrate versus effusion.  Patient also had an EEG performed today.
   - Continue vanco, levo, flagyl  per surgery recs
   - Add ativan 0.5 tid with serial mental status assessments
   - Follow-up culture (blood, urine, CSF) data and C.diff toxin [**Doctor First Name 1021**].
   - Monitor fever curve, WBC
   - Follow-up EEG results
   - Follow-up with neuro regarding dilantin level
   - Continue primidone and dilantin
   .
   # Ventral hernia repair: Patient is POD 5 from ventral hernia repair,
   LOA, and fascial release, now likely complicated by infection.
   - Antibiotics as above
   - Follow-up with general and plastic surgery
   - Dilaudid prn with RR and sedation hold parameters.
   .
   # Anemia: Hct this AM of 21.8 today from 24.1 yesterday morning and
   32.8 on admission. Hemolysis labs yesterday negative.  Likely
   represents post-operative bleed.  Also has baseline anemia, likely
   anemia of chronic inflammation given Fe/TIBC <20%.
   - Transfuse 1u PRBC, recheck PM hct.
   - Transfuse for hct<21.
   .
   # Psych: Patient with psych history significant for bipolar disorder.
   On seroquel, valium, ativan, celexa, wellbutrin, remeron at home which
   she has not been receiving while hospitalized.  Will restart ativan as
   above.
   - Consult CL psych regarding adding psychotropic meds.
   .
   # Right hand swelling: Patient with persistent RUE swelling today of
   hand with associated warmth concerning for DVT versus cellulitis.
   - RUE ultrasound to asssess for DVT.
   .
   # Thyroid: Continue levothyroxine 12.5 mcg iv daily
   .
   # Recurrent spontaneous abortions: Patient with 7 spontaneous
   miscarriages.  Family history significant for recurrent miscarriages
   and CVA concerning for hereditary thrombophilia.  It is possible that
   her mental status change was due to a new thromboembolic CNS insult,
   although this is less likely in setting of fever, leukocytosis, and
   tachycardia.  Would recommend outpatient work-up.
   - Will consider MR, especially if CTH final read is concerning.
   .
   # FEN: TPN restarted yesterday. Replete as necessary. Recheck serum
   chemistries this afternoon.
   .
   # PPx: Heparin SQ, PPI
   .
   # Access: RIJ
   .
   # Code: Full
   .
   # Dispo: ICU level of care.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2101-9-5**] 05:48 PM 41.[**Telephone/Fax (3) 499**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2101-9-4**] 10:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2101-09-07 07:22:00 Physician Resident Progress Note
Chief Complaint: s/p ventral hernia repair, altered mental status
   24 Hour Events:
 STOOL CULTURE - At [**2101-9-6**] 09:00 AM
 EEG - At [**2101-9-6**] 10:00 AM
 ULTRASOUND - At [**2101-9-6**] 02:38 PM
 FEVER - 102.1
F - [**2101-9-7**] 03:00 AM
   [**9-6**]:
   -RUE U/S: negaitve for DVT
   -Started on Ativan 0.5 TID, held per psych recs.
   -Psych called and will see patient today or tomorrow morning
   - Pt given 1U pRBC, post transfusion Hct: 23.5
   - Pt with some coffee grounds in NG tube and guiac positive. Changed
   PPI to 40mg IV Q12.
   - Psych Recs:
   1)symptoms do not represent benzodiazepine withdrawal.
   2)would not restart seroquel, celexa for now and hold ativan for
   sedation since she does not appear to be in acute
   benzodiazepine withdrawal
   3)will contact her psychiatrist
   4)would consider head MRI if possible given persistent fevers,
   high wbc
   5)check phenobarbital level with primadone use
   - Gave 2mg IV Ativan to test for BZD withdrawl. -->
   - Surgery Recs: none
   - Neuro: EEG- no seizure, but possible metabolic encephalopathy. Cont
   dilantin, MRI when stable.
   - Phenobarb level 1.6
   Allergies:
   Codeine
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2101-9-4**] 11:10 PM
   Levofloxacin - [**2101-9-6**] 11:56 AM
   Vancomycin - [**2101-9-7**] 12:27 AM
   Metronidazole - [**2101-9-7**] 01:27 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2101-9-6**] 12:13 PM
   Insulin - Regular - [**2101-9-6**] 12:30 PM
   Pantoprazole (Protonix) - [**2101-9-6**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2101-9-6**] 08:00 PM
   Hydromorphone (Dilaudid) - [**2101-9-7**] 03:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-9-7**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 38.3
C (101
   HR: 116 (109 - 133) bpm
   BP: 129/61(75) {111/48(65) - 179/91(112)} mmHg
   RR: 35 (17 - 38) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 10 (8 - 11)mmHg
   Total In:
                                                                  2,923 mL
                                                                    813 mL
   PO:
   TF:
   IVF:
                                                                  1,806 mL
                                                                    813 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  3,115 mL
                                                                    865 mL
   Urine:
                                                                  2,985 mL
                                                                    760 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
                                                                     80 mL
                                                                    105 mL
   Balance:
                                                                   -192 mL
                                                                    -52 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   Gen: Ill appearing. Lethargic, moaning, and responsive to noxious
   stimuli, able to follow commands and answer questions
   HEENT: Perrl, sclerae anicteric, OP clear. NGT.
   CV: Nl S1+S2
   Pulm: Rhonchorous bilaterally
   Abd: Large vertical incision with dressing C/D/I, two JP drains with
   serosanguinous drainage. Not rigid or tense. No signs of involuntary
   guarding.
   Ext: RUE hand swollen with warmth
   Labs / Radiology
   226 K/uL
   7.9 g/dL
   166 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.9 mEq/L
   9 mg/dL
   106 mEq/L
   141 mEq/L
   22.0 %
   27.8 K/uL
         [image002.jpg]
                            [**2101-9-4**]  10:34 PM
                            [**2101-9-5**]  03:23 AM
                            [**2101-9-5**]  11:15 AM
                            [**2101-9-5**]  02:17 PM
                            [**2101-9-6**]  04:09 AM
                            [**2101-9-6**]  06:00 PM
                            [**2101-9-7**]  03:39 AM
   WBC
   21.6
   25.2
   23.6
   22.0
   27.8
   Hct
   26.1
   24.1
   22.6
   21.8
   23.5
   22.0
   Plt
   155
   168
   164
   185
   226
   Cr
   0.5
   0.5
   0.5
   0.5
   TCO2
   31
   Glucose
   198
   133
   142
   166
   Other labs: PT / PTT / INR:14.5/25.5/1.3, Alk Phos / T Bili:/1.1,
   Differential-Neuts:86.2 %, Lymph:6.9 %, Mono:5.9 %, Eos:0.8 %, Lactic
   Acid:1.3 mmol/L, LDH:186 IU/L, Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   Ms. [**Known lastname 1721**] is a 68 year old female with seizure disorder now POD 6
   from ventral hernia repair with fever, mental status change, and
   tachycardia.
   .
   # Altered mental status/fever/tachycardia: Concerning on transfer for
   sepsis picture given fullfilment of SIRS critieria.  Continues to be
   hemodynamically stable with normal MAP.  Continues to be febrile
   overnight to 102. Patient evaluated by pscyh, who do not feel that this
   is the case. No infectious source identified to date with blood, urine,
   CSF cultures negative.  At this time, symptoms including AMS continue
   to be either due to infectious process likely post-op infection versus
   benzo withdrawal.  EEG demonstrated encephelopathy.
   - Continue broad empiric coverage with vanco, levo, flagyl
   - Follow-up culture (blood, urine, CSF) data.
   - Monitor fever curve, WBC
   - Continue primidone and dilantin
   - Follow-up with neuro and psych recs
   .
   # Ventral hernia repair: Patient is POD 6 from ventral hernia repair,
   LOA, and fascial release, now likely complicated by infection.
   - Antibiotics as above
   - Follow-up with general and plastic surgery
   - Dilaudid prn with RR and sedation hold parameters.
   .
   # Anemia: Patient transfused 1u PRBC yesterday.  Hct this AM of 22 from
   23.5 post-transfusion hct yesterday. Likely represents post-op bleed in
   setting of baseline ACD with Fe/TIBC<20%.
   - [**Hospital1 **] hct check
   - Transfuse for hct<21
   .
   # Psych: Patient with psych history significant for bipolar disorder.
   On seroquel, valium, ativan, celexa, wellbutrin, remeron at home which
   she has not been receiving while hospitalized.  Per psych, psychotropic
   continue to be held
   - Follow-up with pscyh
   .
   # Right hand swelling: RUE ultrasound negative for DVT.
   .
   # Thyroid: Continue levothyroxine 12.5 mcg iv daily
   .
   # Recurrent spontaneous abortions: Patient with 7 spontaneous
   miscarriages.  Family history significant for recurrent miscarriages
   and CVA concerning for hereditary thrombophilia.  It is possible that
   her mental status change was due to a new thromboembolic CNS insult,
   although this is less likely in setting of fever, leukocytosis, and
   tachycardia.  Would recommend outpatient work-up.
   - Will consider MR, especially if CTH final read is concerning.
   .
   # FEN: TPN restarted yesterday. Replete as necessary. Recheck serum
   chemistries this afternoon.
   .
   # PPx: Heparin SQ, PPI
   .
   # Access: RIJ
   .
   # Code: Full
   .
   # Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2101-9-4**] 10:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2101-09-08 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2101-9-7**] 08:30 PM
   temp 102.8
 URINE CULTURE - At [**2101-9-7**] 08:30 PM
 MULTI LUMEN - STOP [**2101-9-7**] 11:00 PM
 FEVER - 102.9
F - [**2101-9-8**] 03:00 AM
   - CTAP: Significant interval increase in size of left lateral
   intramuscular hematoma with no regions of frank liquefaction or rim
   enhancement to suggest a discrete abscess, although CT cannot exclude
   superinfection.
   - Plastics opened up incision with hematoma evaucation (200cc). Wound
   cultures x3 sent.
   - Talked with sister, [**Name (NI) 445**]
   - Rechecked lactate ->2.2
   - Blood cultures from [**9-4**] growing GPC in pairs and clusters.
   - TPN held
   - RIJ pulled and tip cultured, 18g PIV placed.  Will need new CVL in
   AM.
   Allergies:
   Codeine
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2101-9-7**] 12:45 PM
   Vancomycin - [**2101-9-7**] 08:00 PM
   Metronidazole - [**2101-9-8**] 12:02 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2101-9-7**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2101-9-7**] 08:00 PM
   Hydromorphone (Dilaudid) - [**2101-9-8**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies pain or discomfort this morning.
   Flowsheet Data as of  [**2101-9-8**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (102.9
   Tcurrent: 37.7
C (99.9
   HR: 121 (112 - 139) bpm
   BP: 120/58(71) {120/58(71) - 164/113(124)} mmHg
   RR: 12 (12 - 35) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 18 (12 - 18)mmHg
   Total In:
                                                                  3,677 mL
                                                                    168 mL
   PO:
                                                                    950 mL
   TF:
   IVF:
                                                                  2,133 mL
                                                                    168 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,845 mL
                                                                    510 mL
   Urine:
                                                                  2,340 mL
                                                                    360 mL
   NG:
                                                                    400 mL
                                                                    100 mL
   Stool:
   Drains:
                                                                    105 mL
                                                                     50 mL
   Balance:
                                                                    832 mL
                                                                   -342 mL
   Respiratory support
   SpO2: 100%
   ABG: 7.56/28/86.[**Numeric Identifier 253**]/23/3
   Physical Examination
   General: Moaning; lethargic but able to answer questions
   comprehensible for few questions than difficult to understand
   Skin: Sweating, warm to touch
   CV: Difficult exam given moaning - RRR, normal S1/S2
   Pulm: Difficult exam given moaning
 coarse breath sounds diffusely
   Abd: Large vertical incision with dressing C/D/I, two JP drains with
   serosanguinous drainage.
   Labs / Radiology
   275 K/uL
   9.7 g/dL
   122 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.4 mEq/L
   9 mg/dL
   102 mEq/L
   138 mEq/L
   27.4 %
   35.3 K/uL
        [image002.jpg]
   Above labs from [**2101-9-7**], 11:00pm
                            [**2101-9-4**]  10:34 PM
                            [**2101-9-5**]  03:23 AM
                            [**2101-9-5**]  11:15 AM
                            [**2101-9-5**]  02:17 PM
                            [**2101-9-6**]  04:09 AM
                            [**2101-9-6**]  06:00 PM
                            [**2101-9-7**]  03:39 AM
                            [**2101-9-7**]  05:06 PM
                            [**2101-9-7**]  08:26 PM
                            [**2101-9-7**]  10:54 PM
   WBC
   21.6
   25.2
   23.6
   22.0
   27.8
   35.3
   Hct
   26.1
   24.1
   22.6
   21.8
   23.5
   22.0
   26.7
   28
   27.4
   Plt
   155
   168
   164
   185
   226
   275
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   TCO2
   31
   26
   Glucose
   198
   133
   142
   166
   122
   Other labs: PT / PTT / INR:13.8/24.4/1.1, Alk Phos / T Bili:/1.1,
   Differential-Neuts:82.0 %, Band:4.0 %, Lymph:2.0 %, Mono:8.0 %, Eos:2.0
   %, Lactic Acid:2.2 mmol/L, LDH:186 IU/L, Ca++:8.0 mg/dL, Mg++:1.7
   mg/dL, PO4:3.5 mg/dL
   Urine culture
 No growth
   Wound
 No organisms on gram stain x3
   Blood culture ([**9-4**])
 GPC in pairs and clusters
   Blood culture ([**9-7**])
 No growth to dayte
   Assessment and Plan
   68 year old female with seizure disorder now POD 7 from ventral hernia
   repair with fever, mental status change, leukocytosis, anemia, and
   tachycardia.
   # Sepsis: Marked leukocytosis, febrile. Tachypneic overnight. Normo- to
   hypertensive since admission to ICU. Source unclear. 1 out of 3 blood
   cultures from [**9-4**] with GPCs
 likely contaminant, although may be
   secondary to line placement or surgical intervention. RIJ catheter
   removed [**2101-9-8**] evening. Currently on vancomycin. Another possibility
   is C diff
 patient has loose stools (rectal tube in place); currently
   1 out of 2 C diff toxins negative. Given recent abdominal surgery, also
   possibility for intraabdominal source of infection. No abscess seen on
   CT, although study done without IV contrast. In addition, wound gram
   stain from [**9-7**] with no organisms. Currently on levofloxacin/flagyl.
   General surgery, plastic surgery involved
   - Continue vancomycin, although GPCs seen on [**11-25**] blood cultures is
   likely a contaminant
   - Monitor blood and wound cultures.
   - Continue levofloxacin and flagyl for anaerobic and gram negative
   coverage.
   - Monitor C diff toxin assay. Empirically start vancomycin PO for
   presumed C diff.
   - If C diff toxin negative, add Zosyn for broader coverage
   - Speak with surgery regarding possibility of intraabdominal process,
   and possible need for ex-lap to assess for source.
   # Altered mental status: Unclear origin. Diffuse encephalopathy by EEG.
   Differential includes pain, seizures, infection, CVA. Neurology,
   psychiatry involved. Patient currently off of psychotropic meds
   differential also includes exacerbation secondary to severe stress of
   surgery.
   - Neurology, psychiatry recs
   - Control pain as best as possible
 currently on high-dose dilaudid
   - Continue primidone, dilantin
   - Per psych recs, hold off on restarting psychotropic meds at this time
   # Ventral hernia repair: Patient is POD 7 from ventral hernia repair,
   LOA, and fascial release, now likely complicated by infection.
   - Antibiotics and CTAP as above.
   - Follow-up with general and plastic surgery recs
   - Dilaudid prn with RR and sedation hold parameters.
   # Anemia: Transfused 1U pRBCs on [**2101-9-6**].  Hct 27 last night
 AM labs
   pending. Likely represents post-op bleed in setting of baseline ACD
   with Fe/TIBC<20%.
   - Transfuse for hct<21
   # Psych: Patient with psych history significant for bipolar disorder.
   On seroquel, valium, ativan, celexa, wellbutrin, remeron at home which
   she has not been receiving while hospitalized.  Per psych, will not
   restart psychotropics for now.
   - Follow-up with pscyh
   # Right hand swelling: RUE ultrasound negative for DVT.
   # Thyroid: Continue levothyroxine 12.5 mcg iv daily
   # Recurrent spontaneous abortions: Patient with 7 spontaneous
   miscarriages.  Family history significant for recurrent miscarriages
   and CVA concerning for hereditary thrombophilia.  It is possible that
   her mental status change was due to a new thromboembolic CNS insult,
   although this is less likely in setting of fever, leukocytosis, and
   tachycardia.  Would recommend outpatient work-up.
   # FEN: Consider TF
 hold currently given possible need to have ex-lap.
   Replete lytes as necessary.
   # PPx: Heparin SQ, PPI
   # Access: 18G peripheral IV
   # Code: Full
   # Dispo: ICU level of care.
   ICU Care (as above)
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2101-9-8**] 12:10 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2101-09-09 06:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.0
F - [**2101-9-8**] 10:00 AM
   - C diff negative
   - Surgery - Evaluated by attending; no indication for ex-lap at this
   time
   - Started vancomycin PO; d/c'ed levofloxacin; started Zosyn
   - PICC not placed given elevated WBC count
   - Wound culture - No growth to date
   - Held off on tube feeds given possibility for going to OR
   - Spoke to radiology - No need to repeat CT abdomen with contrast;
   assessment with noncontrast study was good enough
   - Ordered for lower extremity dopplers
   - 01:00 - 500cc NS bolus
   - D5 1/2NS at 150ml/hour (maintenance fluids)
   Allergies:
   Codeine
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2101-9-8**] 12:08 PM
   Metronidazole - [**2101-9-8**] 04:11 PM
   Vancomycin - [**2101-9-8**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2101-9-8**] 08:59 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2101-9-8**] 08:09 AM
   Heparin Sodium (Prophylaxis) - [**2101-9-8**] 08:09 AM
   Hydromorphone (Dilaudid) - [**2101-9-9**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nods when asked about pain; otherwise unable to assess
   Flowsheet Data as of  [**2101-9-9**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 37.5
C (99.5
   HR: 134 (114 - 137) bpm
   BP: 115/54(70) {111/52(67) - 157/81(94)} mmHg
   RR: 27 (18 - 30) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,965 mL
                                                                  1,418 mL
   PO:
             TF:
   IVF:
                                                                  1,795 mL
                                                                  1,418 mL
   Blood products:
   Total out:
                                                                  1,245 mL
                                                                    205 mL
   Urine:
                                                                  1,095 mL
                                                                    170 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
                                                                     50 mL
                                                                     35 mL
   Balance:
                                                                    720 mL
                                                                  1,213 mL
   Respiratory support
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   General: Moaning; lethargic but able to answer questions
   comprehensible for few questions than difficult to understand
   Ext: Considerably swollen, tense right upper extremity, extending from
   should joint to fingers
 pitting edema
   CV: Difficult exam given moaning
 RRR, normal S1/S2
   Pulm: Difficult exam given moaning
 coarse breath sounds diffusely
   Abd: Large vertical incision with dressing C/D/I, two JP drains with
   serosanguinous drainage; exquisitely tender to palpation
   Labs / Radiology
   270 K/uL
   9.1 g/dL
   106 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.5 mEq/L
   12 mg/dL
   102 mEq/L
   134 mEq/L
   25.8 %
   37.0 K/uL
        [image002.jpg]
                            [**2101-9-5**]  03:23 AM
                            [**2101-9-5**]  11:15 AM
                            [**2101-9-5**]  02:17 PM
                            [**2101-9-6**]  04:09 AM
                            [**2101-9-6**]  06:00 PM
                            [**2101-9-7**]  03:39 AM
                            [**2101-9-7**]  05:06 PM
                            [**2101-9-7**]  08:26 PM
                            [**2101-9-7**]  10:54 PM
                            [**2101-9-8**]  05:14 PM
   WBC
   25.2
   23.6
   22.0
   27.8
   35.3
   37.0
   Hct
   24.1
   22.6
   21.8
   23.5
   22.0
   26.7
   28
   27.4
   25.8
   Plt
   168
   164
   185
   [**Telephone/Fax (3) 1846**]
   Cr
   0.5
   0.5
   0.5
   0.5
   0.6
   TCO2
   31
   26
   Glucose
   133
   142
   166
   122
   106
   Other labs: PT / PTT / INR:13.8/24.4/1.1, Alk Phos / T Bili:/1.1,
   Amylase / Lipase:37/36, Differential-Neuts:89.0 %, Band:4.0 %,
   Lymph:5.1 %, Mono:5.2 %, Eos:0.2 %, Lactic Acid:1.7 mmol/L, LDH:186
   IU/L, Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   68 year old female with seizure disorder now POD 8 from ventral hernia
   repair with fever, mental status change, leukocytosis, anemia, and
   tachycardia.
   # Sepsis: Marked leukocytosis, febrile. Tachypneic overnight. Normo- to
   hypertensive since admission to ICU. Source unclear. 1 out of 3 blood
   cultures from [**9-4**] with GPCs
 likely contaminant, although may be
   secondary to line placement or surgical intervention. RIJ catheter
   removed [**2101-9-8**] evening. Currently on vancomycin. Another possibility
   is C diff
 patient has loose stools (rectal tube in place); currently
   1 out of 2 C diff toxins negative. Given recent abdominal surgery, also
   possibility for intraabdominal source of infection. No abscess seen on
   CT, although study done without IV contrast
 talk to radiology,
   repeating study with IV contrast probably wouldn
t help much. In
   addition, wound gram stain from [**9-7**] with no organisms. General
   surgery, plastic surgery involved. C diff negative x2.
   - Continue vancomycin although GPCs seen on [**11-25**] blood cultures is
   likely a contaminant
   - Monitor blood and wound cultures.
   - Continue Zosyn and flagyl for anaerobic and gram negative coverage.
   - Speak with surgery again today regarding possibility of
   intraabdominal process and possible need for ex-lap to explore.
   - Lower extremity dopplers to assess for DVT
   - CT sinus to assess for infectious source in sinuses
   # Altered mental status: Unclear origin. Diffuse encephalopathy by EEG.
   Differential includes pain, seizures, infection, CVA. Neurology,
   psychiatry involved. Patient currently off of psychotropic meds
   differential also includes exacerbation secondary to severe stress of
   surgery.
   - Neurology, psychiatry recs
   - Control pain as best as possible
 currently on high-dose dilaudid
   - Continue primidone, dilantin
   - Per psych recs, hold off on restarting psychotropic meds at this time
   # Decreased urine output: Continue to monitor. Provide fluid boluses
   prn. If no improvement, consider further investigation urine
   electrolytes, osmolality, renal ultrasound.
   # Ventral hernia repair: Patient is POD 8 from ventral hernia repair,
   LOA, and fascial release, now likely complicated by infection.
   - Antibiotics and CTAP as above.
   - Follow-up with general and plastic surgery recs
   - Dilaudid prn with RR and sedation hold parameters.
   # Anemia: Transfused 1U pRBCs on [**2101-9-6**].  Hct 27 last night
 AM labs
   pending. Likely represents post-op bleed in setting of baseline ACD
   with Fe/TIBC<20%.
   - Transfuse for hct<21
   # Psych: Patient with psych history significant for bipolar disorder.
   On seroquel, valium, ativan, celexa, wellbutrin, remeron at home which
   she has not been receiving while hospitalized.  Per psych, will not
   restart psychotropics for now.
   - Follow-up with pscyh
   # Right hand swelling: RUE ultrasound negative for DVT.
   # Thyroid: Continue levothyroxine 12.5 mcg iv daily
   # Recurrent spontaneous abortions: Patient with 7 spontaneous
   miscarriages.  Family history significant for recurrent miscarriages
   and CVA concerning for hereditary thrombophilia.  It is possible that
   her mental status change was due to a new thromboembolic CNS insult,
   although this is less likely in setting of fever, leukocytosis, and
   tachycardia.  Would recommend outpatient work-up.
   # FEN: Consider TF
 hold currently given possible need to have ex-lap.
   Replete lytes as necessary.
   # PPx: Heparin SQ, PPI
   # Access: No access currently
 will have to place central line today;
   IV team will not place PICC secondary to markedly elevated WBC count
   # Code: Full
   # Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2101-9-8**] 12:10 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2101-09-09 10:22:00 Physician Attending Progress Note
Chief Complaint: Altered mental status
   HPI:
   68F s/p ventral hernia repair and lysis of adhesions; continues to be
   altered with fevers, leukocytosis.
   24 Hour Events:
   She has continued to be altered with poor mental status.  She has
   significant abdominal pain related to recent surgery.  Persistent
   fevers, most recent this morning to 103F.  She is hemodynamically
   stable, however, was unable to have PICC placed yesterday because of
   signs of ongoing infection.  Yesterday, changed antibiotics for broader
   coverage.
   Allergies:
   Codeine
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2101-9-8**] 12:08 PM
   Metronidazole - [**2101-9-8**] 04:11 PM
   Vancomycin - [**2101-9-8**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2101-9-8**] 08:59 PM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2101-9-9**] 04:00 AM
   Other medications:
   Primidone
   Heparin
   Synthroid
   Insulin sliding scale
   PPI
   Heparin
   Dilantin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-9-9**] 10:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.9
C (100.3
   HR: 139 (116 - 139) bpm
   BP: 120/58(73) {111/52(67) - 138/81(94)} mmHg
   RR: 25 (18 - 32) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,965 mL
                                                                  1,483 mL
   PO:
             TF:
   IVF:
                                                                  1,795 mL
                                                                  1,453 mL
   Blood products:
   Total out:
                                                                  1,245 mL
                                                                    385 mL
   Urine:
                                                                  1,095 mL
                                                                    350 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
                                                                     50 mL
                                                                     35 mL
   Balance:
                                                                    720 mL
                                                                  1,098 mL
   Respiratory support
   O2 Delivery Device: 2L Nasal cannula
   SpO2: 94%
   Physical Examination
   Not significantly changed since my exam yesterday except for change in
   neuro status.
   On my exam earlier this morning, Ms [**Known lastname 1721**] was clear, lucid,
   interactive, oriented x 3. Now back to her poorly  responsive, moaning
   baseline. She responds verbally to voice, but no further response to
   questions.
   Labs / Radiology
   9.1 g/dL
   270 K/uL
   106 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.5 mEq/L
   12 mg/dL
   102 mEq/L
   134 mEq/L
   25.8 %
   37.0 K/uL
        [image002.jpg]
                            [**2101-9-5**]  03:23 AM
                            [**2101-9-5**]  11:15 AM
                            [**2101-9-5**]  02:17 PM
                            [**2101-9-6**]  04:09 AM
                            [**2101-9-6**]  06:00 PM
                            [**2101-9-7**]  03:39 AM
                            [**2101-9-7**]  05:06 PM
                            [**2101-9-7**]  08:26 PM
                            [**2101-9-7**]  10:54 PM
                            [**2101-9-8**]  05:14 PM
   WBC
   25.2
   23.6
   22.0
   27.8
   35.3
   37.0
   Hct
   24.1
   22.6
   21.8
   23.5
   22.0
   26.7
   28
   27.4
   25.8
   Plt
   168
   164
   185
   [**Telephone/Fax (3) 1846**]
   Cr
   0.5
   0.5
   0.5
   0.5
   0.6
   TCO2
   31
   26
   Glucose
   133
   142
   166
   122
   106
   Other labs: PT / PTT / INR:13.8/24.4/1.1, Alk Phos / T Bili:/1.1,
   Amylase / Lipase:37/36, Differential-Neuts:89.0 %, Band:4.0 %,
   Lymph:5.1 %, Mono:5.2 %, Eos:0.2 %, Lactic Acid:1.7 mmol/L, LDH:186
   IU/L, Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   68F with ongoing signs of infection without clear alternative source.
   She has no evidence of PNA, she is not bacteremic, does not have UTI or
   cellulitis.  Other possible sources would be her abdominal wound s/p
   surgery, possibly related to sinusitis given her NGT. Continued
   delirium. Much improved this morning, now reverted to nearly
   unresponsive and moaning. At least in part seems related to pain.
   1.       ID:  Evidence of infection with rising leukocytosis, fevers;
   abdominal CT negative and surgery does not feel related to a
   post-operative infection in her abdomen.  All cultures are negative at
   this time including cdiff x 2.
   -          Continue empiric treatment for cdiff w/ PO vanco/flagyl
   -          Continue vancomycin, zosyn.
   -          ID consult today
   -          Sinus CT to rule out sinusitis
   2.       GI:  Abdominal pain/post-op
   - Check LFTs/amylase/lipase today given fevers, though abdominal CT not
   revealing for severe pancreatitis.
   3.       Pulm:  She has rising O2 requirement today.  Likely
   atelectasis.
   - CXR today after line placement
   4.       Heme:  LENIs pending
 prelim negative.  UE edema
   - Upper extremity doppler today for clot
   5.       Access:  Place CVL today, given lack of peripheral access.
   Will favor SCL given her mental status.
   6.       Pain: following CVC placement will readdress pain control.
   ICU Care
   Nutrition:
   NPO
   Glycemic Control:  Insulin Sliding scale
   Lines:
   18 Gauge - [**2101-9-8**] 12:10 AM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: PPI
   Aspiration precautions: HOB
   Communication:
   Code status: Full code
   Disposition :  ICU
   Total time spent: 35minutes

2101-09-10 07:35:00 Physician Resident Progress Note
Chief Complaint: s/p ventral hernai repair
   24 Hour Events:
   - RUE showed non-occlusive clot in the RIJ and subclavian
   - No lower ext DVT
   - started on heparin drip
   - ID Recs: Continue PO vanco, IV Zosyn, IV Vanco, Stop IV Flagyl, CT
   abdomen/pelvis with IV/PO contrast (can't get IV contrast until we get
   a PIV)
   - CVL L subclavian attempted, but failed (artery).  L IJ placed.
   - WBC count cont to rise (44.4)
   - Vanco level: 4.9
   - Spoke with plastics surgery who concerned with WBC count and fevers.
   Repeat CT-scan of abdomin w/ po and w/o IV contrast because no PIV.
   Collection causing fever and leukocytosis to this level should appear
   on non IV contrast abdominal CT.
   - CT abdomin performed --> surgery will take to OR for non-resolving
   hematoma
   - CT Sinus appeared normal
 MULTI LUMEN - START [**2101-9-9**] 05:00 PM
 MULTI LUMEN - STOP [**2101-9-9**] 05:30 PM
 MULTI LUMEN - START [**2101-9-9**] 07:11 PM
 MULTI LUMEN - START [**2101-9-9**] 07:15 PM
 MULTI LUMEN - STOP [**2101-9-9**] 08:04 PM
 FEVER - 103.0
F - [**2101-9-9**] 10:00 AM
   Patient unable to provide history: Encephalopathy
   Allergies:
   Codeine
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2101-9-8**] 12:08 PM
   Metronidazole - [**2101-9-8**] 04:11 PM
   Piperacillin/Tazobactam (Zosyn) - [**2101-9-10**] 06:00 AM
   Vancomycin - [**2101-9-10**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2101-9-9**] 07:56 PM
   Pantoprazole (Protonix) - [**2101-9-9**] 08:00 PM
   Hydromorphone (Dilaudid) - [**2101-9-10**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: [**5-31**] Severe
   Flowsheet Data as of  [**2101-9-10**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (103
   Tcurrent: 37.1
C (98.7
   HR: 124 (102 - 139) bpm
   BP: 101/49(62) {93/46(60) - 149/92(92)} mmHg
   RR: 17 (14 - 28) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 16 (4 - 39)mmHg
   Total In:
                                                                  2,983 mL
                                                                  1,250 mL
   PO:
   TF:
   IVF:
                                                                  1,803 mL
                                                                    775 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    870 mL
                                                                    375 mL
   Urine:
                                                                    795 mL
                                                                    375 mL
   NG:
   Stool:
                                                                     40 mL
   Drains:
                                                                     35 mL
   Balance:
                                                                  2,113 mL
                                                                    875 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///23/
   Physical Examination
   General Appearance: Anxious, Diaphoretic, ill appearing, in pain
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: ), coarse breath sounds
   Abdominal: Distended, Tender: , firm, hypoactive BS, vertical incision
   with new dressing C/I/D, two lateral JP drains
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Oriented (to): x0, Movement: Purposeful, Tone: Not assessed, waxing and
   [**Doctor Last Name 226**] MS, limited communication
   Labs / Radiology
   325 K/uL
   8.5 g/dL
   336 mg/dL
   0.6 mg/dL
   23 mEq/L
   4.8 mEq/L
   13 mg/dL
   105 mEq/L
   138 mEq/L
   24.4 %
   43.6 K/uL
        [image002.jpg]
                            [**2101-9-6**]  06:00 PM
                            [**2101-9-7**]  03:39 AM
                            [**2101-9-7**]  05:06 PM
                            [**2101-9-7**]  08:26 PM
                            [**2101-9-7**]  10:54 PM
                            [**2101-9-8**]  05:14 PM
                            [**2101-9-9**]  05:12 PM
                            [**2101-9-9**]  07:19 PM
                            [**2101-9-9**]  11:13 PM
                            [**2101-9-10**]  02:33 AM
   WBC
   27.8
   35.3
   37.0
   44.4
   43.6
   Hct
   23.5
   22.0
   26.7
   28
   27.4
   25.8
   25.3
   25.1
   23.6
   24.4
   Plt
   [**Telephone/Fax (3) 1916**]19
   325
   Cr
   0.5
   0.5
   0.6
   0.7
   0.6
   TCO2
   26
   Glucose
   166
   122
   106
   95
   336
   Other labs: PT / PTT / INR:25.8/97.1/2.5, ALT / AST:[**7-10**], Alk Phos / T
   Bili:143/1.6, Amylase / Lipase:20/22, Differential-Neuts:92.0 %,
   Band:2.0 %, Lymph:2.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:2.0 mmol/L,
   Albumin:2.5 g/dL, LDH:368 IU/L, Ca++:7.3 mg/dL, Mg++:2.0 mg/dL, PO4:1.2
   mg/dL
   Assessment and Plan
   68 year old female with seizure disorder now POD 8 from ventral hernia
   repair with fever, mental status change, leukocytosis, anemia, and
   tachycardia.
   # Sepsis: Marked leukocytosis, febrile. Tachypneic overnight. Normo- to
   hypertensive since admission to ICU. Source unclear. Repeat CT-abdomin
   and CT- sinus overnight.  Pre-lim CT abd showed non-resolving hematoma
   concerning for source of infection.  Surgery will take to OR today.
   Intraabdominal source most likely given recent surgery.  1 out of 3
   blood cultures from [**9-4**] with coag neg staph
 likely contaminant. RIJ
   catheter removed [**2101-9-8**] and new LIJ place [**2101-9-9**]. Antibiotics
   brodened to po and IV vanco and zosyn. Another possibility is C diff
   patient has loose stools (rectal tube in place); however C diff toxins
   negative x2.  Unlikely to give this degree of leukocytosis, but pt with
   upper ext DVT could be thrombophlebetis.  In addition, wound gram stain
   from [**9-7**] with no organisms. General surgery, plastic surgery
   involved.
   - pt for OR tomorrow morning (will check coags and give FFP at
   midnight)
   -Cont IV vanomycin and zosyn
   - cont po vancomycin for c. diff coverage
   - f/[**Location 134**] abdominal CT
   - Monitor blood and wound cultures.
   -f/u with surgery and plastic surgery
   - f/[**Location 134**] CT sinus
   # Altered mental status: Unclear origin. Diffuse encephalopathy by EEG.
   Pain likely major factor in patients MS given pt becomes altered after
   manipulation of abdomin.  Other differential includes seizures (no
   evidence on EEG), infection, CVA. Neurology, psychiatry involved.
   Patient currently off of psychotropic meds
 differential also includes
   exacerbation secondary to severe stress of surgery.
   - Neurology, psychiatry recs
   - Control pain as best as possible
 currently on high-dose dilaudid
   - Continue primidone, dilantin
   - Per psych recs, hold off on restarting psychotropic meds at this time
   - neuro to check dilantin level and t/c MRI when more stable to r/o CVA
   .
   # Decreased urine output: Continue to monitor. Provide fluid boluses
   prn. Pt with improved UOP with fluid challenge
   - will bolus fluids to maintain UOP >30cc/hr
   # Ventral hernia repair: Patient is POD 9 from ventral hernia repair,
   LOA, and fascial release, now likely complicated by infection.
   - Antibiotics and CTAP as above.
   - for OR today
   - Follow-up with general and plastic surgery recs
   - Dilaudid prn with RR and sedation hold parameters.
   # Anemia: Hct today is  24.4 today. Pt transfused 1U pRBC overnight.
   Likely represents post-op bleed in setting of baseline ACD with
   Fe/TIBC<20%.
   - Transfuse for hct<21
   # Psych: Patient with psych history significant for bipolar disorder.
   On seroquel, valium, ativan, celexa, wellbutrin, remeron at home which
   she has not been receiving while hospitalized.  Per psych, will not
   restart psychotropics for now.
   - Follow-up with pscyh
   # Right hand swelling: RUE U/S showed non-occlusive DVT in RIJ and
   sublavian.  Briefly started on heparin drip overnight, but stopped b/c
   for OR today.
   - Hold on heparin drip
   # Thyroid: Continue levothyroxine 12.5 mcg iv daily
   # Recurrent spontaneous abortions: Patient with 7 spontaneous
   miscarriages.  Family history significant for recurrent miscarriages
   and CVA concerning for hereditary thrombophilia.  It is possible that
   her mental status change was due to a new thromboembolic CNS insult,
   although this is less likely in setting of fever, leukocytosis, and
   tachycardia.  Would recommend outpatient work-up.
   - will check lupus anticoagulant and anti-cardiolipin
   # FEN: hold currently given possible need to have ex-lap. Replete lytes
   as necessary.
   # PPx: Heparin SQ, PPI
   # Access: CVL RIJ placed [**2101-9-9**], pt needs additional PIV
   # Code: Full
   # Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2101-9-9**] 07:11 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2101-09-11 06:51:00 Physician Resident Progress Note
Chief Complaint: S/p ventral hernia repair, sepsis
   24 Hour Events:
 FEVER - 102.6
F - [**2101-9-10**] 04:00 PM
   - KUB with sponge
   - Per general [**Doctor First Name 91**], likely to OR tomorrow, will check coags and hct
   tonight.
   - LAC and ACL ordered.
   - 1u PRBC given this AM, repeat hct 26.6
   - KUB sponge versus VAC positive for leak. Plan to go to OR tomorrow at
   10am.
   - AM INR 2.7, 2u FFP ordered.
   Allergies:
   Codeine
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2101-9-8**] 12:08 PM
   Metronidazole - [**2101-9-8**] 04:11 PM
   Vancomycin - [**2101-9-11**] 06:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2101-9-11**] 06:21 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2101-9-10**] 08:45 PM
   Hydromorphone (Dilaudid) - [**2101-9-11**] 03:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-9-11**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 37.8
C (100
   HR: 116 (110 - 125) bpm
   BP: 118/54(69) {102/45(59) - 133/63(81)} mmHg
   RR: 16 (11 - 19) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 19 (3 - 23)mmHg
   Total In:
                                                                  3,313 mL
                                                                    218 mL
   PO:
   TF:
   IVF:
                                                                  2,463 mL
                                                                    168 mL
   Blood products:
                                                                    650 mL
   Total out:
                                                                  1,170 mL
                                                                    390 mL
   Urine:
                                                                  1,170 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
                                                                     65 mL
   Balance:
                                                                  2,143 mL
                                                                   -173 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   General Appearance: Anxious, Diaphoretic, ill appearing, in pain
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: ), coarse breath sounds
   Abdominal: Distended, Tender: , firm, hypoactive BS, vertical incision
   with new dressing C/I/D, two lateral JP drains
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Oriented (to): x0, Movement: Purposeful, Tone: Not assessed, waxing and
   [**Doctor Last Name 226**] MS, limited communication
   Labs / Radiology
   347 K/uL
   9.3 g/dL
   123 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.8 mEq/L
   13 mg/dL
   106 mEq/L
   142 mEq/L
   26.9 %
   48.5 K/uL
        [image002.jpg]
                            [**2101-9-7**]  05:06 PM
                            [**2101-9-7**]  08:26 PM
                            [**2101-9-7**]  10:54 PM
                            [**2101-9-8**]  05:14 PM
                            [**2101-9-9**]  05:12 PM
                            [**2101-9-9**]  07:19 PM
                            [**2101-9-9**]  11:13 PM
                            [**2101-9-10**]  02:33 AM
                            [**2101-9-10**]  03:38 PM
                            [**2101-9-11**]  03:30 AM
   WBC
   35.3
   37.0
   44.4
   43.6
   42.5
   48.5
   Hct
   26.7
   28
   27.4
   25.8
   25.3
   25.1
   23.6
   24.4
   26.0
   26.9
   Plt
   275
   270
   319
   [**Telephone/Fax (3) 1929**]
   Cr
   0.5
   0.6
   0.7
   0.6
   0.7
   0.7
   TCO2
   26
   Glucose
   122
   106
   95
   336
   97
   123
   Other labs: PT / PTT / INR:27.1/27.8/2.7, ALT / AST:17/39, Alk Phos / T
   Bili:146/3.3, Amylase / Lipase:20/22, Differential-Neuts:92.0 %,
   Band:2.0 %, Lymph:2.0 %, Mono:3.0 %, Eos:0.0 %, D-dimer:[**2048**] ng/mL,
   Fibrinogen:705 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.5 g/dL, LDH:263
   IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Microbiology: C diff toxin [**Doctor First Name **] neg x3
   Blood culture ([**9-4**]) - [**11-24**] coag negative Staph
   Wound - gram stain negative x3. NGTD.
   Assessment and Plan
   Ms. [**Known lastname 1721**] is a 68 year old female with seizure disorder now POD 9
   from ventral hernia repair with fever, mental status change,
   leukocytosis, anemia, and tachycardia likely due to enterocutaneous
   fistula.
   .
   # Sepsis: Leukocytosis continues to rise, this AM to 48.5.  Continues
   to be febrile up to 102.6.  Repeat CT abdomen concerning for
   enterocutaneous fistula. Xray of sponge versus VAC consistent with
   leak.  Plan per general surgery is to go to OR this morning. Less
   likely to be C.difficile colitis with negative C.diff toxin [**Doctor First Name **] x3.
   - Will discuss with General [**Doctor First Name **] when patient is going and given 2u
   FFP.
   - Continue IV vancomycin and pip/tazo empiric therapy
   - Continue PO vancomycin and IV flagyl for C.diff coverage
   - Follow-up culture data
   - Trend fever curve, WBC
   - Monitor MAPs, UOP, CVP and bolus as necessary
   - Follow-up official CT abdomen/pelvis read
   .
   # Altered mental status: Likely secondary to sepsis +/- pain.  Diffuse
   encephalopathy per EEG. Less likely to be seizure, CVA, or withdrawal.
   - Follow-up neurology and psychiatry recs if any
   - Continue dilaudid prn
   - Continue primidone, dilantin
   - Per psych recs, hold off on restarting psychotropic meds at this time
   .
   # Ventral hernia repair: Patient is POD 9 from ventral hernia repair,
   LOA, and fascial release, now likely complicated by infection.
   - OR today
   - Follow-up with general and plastic surgery recs
   - Dilaudid prn with RR and sedation hold parameters as above.
   .
   # Anemia: Hct today is 26.9. Has been transfused a total of 3u during
   hospital course.  Likely represents post-op bleed in setting of
   baseline ACD with Fe/TIBC<20%.
   - Transfuse for hct<21
   - Crossmatched for 2u PRBC.
   .
   # Psych: Patient with psych history significant for bipolar disorder.
   On seroquel, valium, ativan, celexa, wellbutrin, remeron at home which
   she has not been receiving while hospitalized.  Per psych, will not
   restart psychotropics for now.
   - Follow-up with pscyh
   .
   # Right hand swelling: RUE U/S showed non-occlusive DVT in RIJ and
   sublavian.  Will not start heparin gtt given patient is going to OR
   today.
   .
   # Thyroid: Continue levothyroxine 12.5 mcg iv daily
   .
   # Recurrent spontaneous abortions: Patient with 7 spontaneous
   miscarriages.  Family history significant for recurrent miscarriages
   and CVA concerning for hereditary thrombophilia.  It is possible that
   her mental status change was due to a new thromboembolic CNS insult,
   although this is less likely in setting of fever, leukocytosis, and
   tachycardia.
   - Lupus anticoagulant panel and ACA ab pending
   .
   # FEN: Hold TPN.  Replete as necessary.
   .
   # PPx: Heparin SQ, PPI
   .
   # Access: RIJ
   .
   # Code: Full
   .
   # Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2101-9-9**] 07:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2101-09-12 07:22:00 Physician Resident Progress Note
Chief Complaint: s/p ventral hernia repair
   24 Hour Events:
 BLOOD CULTURED - At [**2101-9-11**] 11:56 AM
 BLOOD CULTURED - At [**2101-9-11**] 12:15 PM
 BLOOD CULTURED - At [**2101-9-12**] 06:20 AM
 FEVER - 103.3
F - [**2101-9-12**] 06:00 AM
   - ID recs: Culture if spikes; send samples from OR for
   aerobic/anaerobic culture and fungal culture; aggressive surveillance
   for new nosocomial infections
   - Started PPN. TPN recs to be entered [**9-12**] before 1pm -> 1.5L 150g
   dextrose/90g AA/30g lipids with standard lytes
   - Gave 1L 1/2NS maintenance fluid, UOP 40-50/hour
   - With 2U FFP + 5mg vitamin K IV, INR to 2.3. Per surgery recs, recheck
   INR at midnight; if INR still elevated, give additional 2U FFP. Will go
   to surgery tomorrow morning -> 5pm INR 1.6, surgery paged. Plan for
   surgery [**9-12**] AM. Give FFP if INR>2.
   - Central line adjusted, third port now patent.
   - Lactate 2.2>1.8
   - RUQ ultrasound not done
   **Need to contact surgery early to ask them to get periop cultures as
   above
   Allergies:
   Codeine
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2101-9-12**] 12:10 AM
   Piperacillin/Tazobactam (Zosyn) - [**2101-9-12**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2101-9-11**] 08:16 PM
   Hydromorphone (Dilaudid) - [**2101-9-12**] 06:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-9-12**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.3
   Tcurrent: 39.6
C (103.3
   HR: 130 (107 - 130) bpm
   BP: 147/62(81) {109/50(68) - 147/76(92)} mmHg
   RR: 28 (13 - 28) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 9 (9 - 17)mmHg
   Total In:
                                                                  2,233 mL
                                                                  1,674 mL
   PO:
   TF:
   IVF:
                                                                  1,360 mL
                                                                  1,369 mL
   Blood products:
                                                                    606 mL
   Total out:
                                                                  1,130 mL
                                                                    420 mL
   Urine:
                                                                  1,065 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
                                                                     65 mL
   Balance:
                                                                  1,103 mL
                                                                  1,254 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   General Appearance: Ill appearing
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: ), Rhonchorous throughout
   Abdominal: Distended, Tender: , firm, hypoactive BS, vertical incision
   with new dressing C/I/D, two lateral JP drains
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Oriented x2, able to follow simple commands
   Labs / Radiology
   408 K/uL
   7.9 g/dL
   141 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.1 mEq/L
   13 mg/dL
   105 mEq/L
   143 mEq/L
   24.0 %
   38.7 K/uL
        [image002.jpg]
                            [**2101-9-7**]  08:26 PM
                            [**2101-9-7**]  10:54 PM
                            [**2101-9-8**]  05:14 PM
                            [**2101-9-9**]  05:12 PM
                            [**2101-9-9**]  07:19 PM
                            [**2101-9-9**]  11:13 PM
                            [**2101-9-10**]  02:33 AM
                            [**2101-9-10**]  03:38 PM
                            [**2101-9-11**]  03:30 AM
                            [**2101-9-12**]  01:00 AM
   WBC
   35.3
   37.0
   44.4
   43.6
   42.5
   48.5
   38.7
   Hct
   28
   27.4
   25.8
   25.3
   25.1
   23.6
   24.4
   26.0
   26.9
   24.0
   Plt
   275
   270
   319
   [**Telephone/Fax (3) 1929**]
   408
   Cr
   0.5
   0.6
   0.7
   0.6
   0.7
   0.7
   0.7
   TCO2
   26
   Glucose
   122
   106
   95
   336
   97
   123
   141
   Other labs: PT / PTT / INR:15.4/23.1/1.4, ALT / AST:17/39, Alk Phos / T
   Bili:146/3.3, Amylase / Lipase:20/22, Differential-Neuts:92.9 %,
   Band:20.0 %, Lymph:4.1 %, Mono:2.3 %, Eos:0.4 %, D-dimer:[**2048**] ng/mL,
   Fibrinogen:705 mg/dL, Lactic Acid:1.8 mmol/L, Albumin:2.0 g/dL, LDH:263
   IU/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 1721**] is a 68 year old female with seizure disorder now POD 10
   from ventral hernia repair with fever, mental status change,
   leukocytosis, anemia, and tachycardia likely due to enterocutaneous
   fistula.
   .
   # Sepsis: Leukocytosis this AM 38.7.  Continues to be febrile up to
   103.  Repeat CT abdomen concerning for enterocutaneous fistula. Xray of
   sponge versus VAC consistent with leak.  Patient did not go to OR
   yesterday, but plan to take patient to OR today.  INR today 1.4,
   patient received FFP and IV vitamin K yesterday.
   - Continue broad empiric coverag with vancomycin and pip/tazo
   - Continue C.diff coverage with PO vancomycin and IV flagyl.  ID recs-
   stop IV flagyl.
   - Follow-up culture data
   - Trend fever curve, WBC
   - Monitor MAPs, UOP, CVP and bolus as necessary
   - Follow-up official CT abdomen/pelvis read
   .
   # Altered mental status: Likely secondary to sepsis +/- pain.  Diffuse
   encephalopathy per EEG. Less likely to be seizure, CVA, or withdrawal.
   - Follow-up neurology and psychiatry recs if any
   - Continue dilaudid prn
   - Continue primidone, dilantin
   - Per psych recs, hold off on restarting psychotropic meds at this time
   .
   # Ventral hernia repair: Patient is POD 9 from ventral hernia repair,
   LOA, and fascial release, now likely complicated by infection.
   - OR today, INR 1.4.
   - Follow-up with general [**Doctor First Name 91**]
   - Dilaudid prn with RR and sedation hold parameters as above.
   .
   # Anemia: Hct today is 24. Discussed with gen [**Doctor First Name 91**] and will hold off on
   transfusing pre-op.  Has been transfused a total of 3u during hospital
   course.  Likely represents post-op bleed in setting of baseline ACD
   with Fe/TIBC<20%.
   - Crossmatched for 2u PRBC.
   - Post-op hct check
   .
   # Hyperbilirubinemia: Tbili XXXX from 3.3 yesterday. Direct bili today
   of XXX.  Transaminases normal.
   - RUQ ultrasound to evaluate for biliary diltation.
   .
   # Psych: Patient with psych history significant for bipolar disorder.
   On seroquel, valium, ativan, celexa, wellbutrin, remeron at home which
   she has not been receiving while hospitalized.  Per psych, will not
   restart psychotropics for now.
   - Follow-up with pscyh
   .
   # Right hand swelling: RUE U/S showed non-occlusive DVT in RIJ and
   sublavian.  Will not start heparin gtt given patient is likely going to
   OR today.
   .
   # Thyroid: Continue levothyroxine 12.5 mcg iv daily
   .
   # Recurrent spontaneous abortions: Patient with 7 spontaneous
   miscarriages.  Family history significant for recurrent miscarriages
   and CVA concerning for hereditary thrombophilia.  It is possible that
   her mental status change was due to a new thromboembolic CNS insult,
   although this is less likely in setting of fever, leukocytosis, and
   tachycardia.
   - Lupus anticoagulant panel and ACA ab pending
   .
   # FEN: Resume TPN.  Will d/w nutrition for TPN reces.  Replete as
   necessary.
   .
   # PPx: Heparin SQ, PPI
   .
   # Access: LIJ
   .
   # Code: Full
   .
   # Dispo: ICU level of care.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2101-9-11**] 09:12 PM 41.[**Telephone/Fax (5) 1228**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2101-9-9**] 07:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2101-09-13 07:02:00 Physician Resident Progress Note
Chief Complaint: s/p ventral hernia repair, sepsis.
   24 Hour Events:
 OR SENT - At [**2101-9-12**] 02:31 PM
 ARTERIAL LINE - START [**2101-9-12**] 03:00 PM
 INVASIVE VENTILATION - START [**2101-9-12**] 03:47 PM
 OR RECEIVED - At [**2101-9-12**] 04:00 PM
 INVASIVE VENTILATION - STOP [**2101-9-12**] 08:32 PM
 FEVER - 102.9
F - [**2101-9-12**] 08:00 PM
   - RUQ U/S: negative for obstruction
   - Surgery yesterday for washout/hematoma evacuation, did not open
   midline incision. Per surgery the hematoma did not look infected,
   purulent, or foul smelling. Sent for cultures.  Did not find fistula or
   other source of infection intra-abdominal.
   - Pt extubated successfully
   - Neuro: Give 500mg IV dilantin (goal [**9-7**]). re-check level in AM.
   - Could not get fluid from VAC to send for amylase
   - Started heparin gtt 12 hours after procedure. [**11-24**] bolus.
   - Restart TF in AM
   - Check cosyntropin in AM
   - Received 1u PRBC yesterday.
   Allergies:
   Codeine
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2101-9-12**] 07:40 PM
   Piperacillin/Tazobactam (Zosyn) - [**2101-9-13**] 05:30 AM
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2101-9-12**] 09:30 PM
   Hydromorphone (Dilaudid) - [**2101-9-13**] 03:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-9-13**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (102.9
   Tcurrent: 38.4
C (101.1
   HR: 111 (98 - 122) bpm
   BP: 107/59(76) {90/51(65) - 132/61(82)} mmHg
   RR: 16 (13 - 31) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 9 (8 - 11)mmHg
   Total In:
                                                                  6,531 mL
                                                                  1,185 mL
   PO:
   TF:
   IVF:
                                                                  4,978 mL
                                                                    757 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,460 mL
                                                                    525 mL
   Urine:
                                                                    975 mL
                                                                    525 mL
   NG:
   Stool:
   Drains:
                                                                    335 mL
   Balance:
                                                                  5,071 mL
                                                                    660 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 500 (500 - 500) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 42
   PIP: 24 cmH2O
   SpO2: 93%
   ABG: 7.39/46/127/26/2
   Ve: 9.6 L/min
   PaO2 / FiO2: 318
   Physical Examination
   General Appearance: Ill appearing
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NGT
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: ), Rhonchorous throughout
   Abdominal: Distended, Tender: , firm, absent BS.
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Moving all four extremities, not able to follow commands.
   Not oriented.
   Labs / Radiology
   419 K/uL
   8.7 g/dL
   208 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.4 mEq/L
   15 mg/dL
   106 mEq/L
   142 mEq/L
   25.3 %
   38.9 K/uL
                            [**2101-9-9**]  07:19 PM
                            [**2101-9-9**]  11:13 PM
                            [**2101-9-10**]  02:33 AM
                            [**2101-9-10**]  03:38 PM
                            [**2101-9-11**]  03:30 AM
                            [**2101-9-12**]  01:00 AM
                            [**2101-9-12**]  04:21 PM
                            [**2101-9-12**]  04:54 PM
                            [**2101-9-13**]  02:36 AM
                            [**2101-9-13**]  02:58 AM
   WBC
   44.4
   43.6
   42.5
   48.5
   38.7
   40.8
   38.9
   Hct
   25.1
   23.6
   24.4
   26.0
   26.9
   24.0
   29.1
   25.3
   Plt
   [**Telephone/Fax (2) 1974**]
   419
   Cr
   0.7
   0.6
   0.7
   0.7
   0.7
   0.7
   0.7
   TCO2
   26
   29
   Glucose
   95
   [**Telephone/Fax (2) 1975**]1
   105
   208
   Other labs: PT / PTT / INR:15.1/24.3/1.3, ALT / AST:19/45, Alk Phos / T
   Bili:111/4.5, Amylase / Lipase:20/22, Differential-Neuts:92.9 %,
   Band:20.0 %, Lymph:4.1 %, Mono:2.3 %, Eos:0.4 %, D-dimer:[**2048**] ng/mL,
   Fibrinogen:705 mg/dL, Lactic Acid:3.1 mmol/L, Albumin:1.9 g/dL, LDH:216
   IU/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:2.3 mg/dL
   Imaging: RUQ: The liver is homogeneous in attenuation without focal
   masses or
   lesions seen. There is no son[**Name (NI) 1976**] evidence of intra- or
   extra-hepatic
   biliary dilation. The common hepatic duct measures 5 mm in the porta
   hepatis.  The portal vein demonstrates normal hepatopetal flow. The
   gallbladder was not visualized. Correlate with prior surgical history.
   The right kidney is within normal limits. There is no hydronephrosis.
   The visualized portions of the pancreas appear normal. The head of
   pancreas and distal aspect of the tail of the pancreas were not well
   visualized.
   CTAP: Findings concerning for enterocutaneous fistula at the wound VAC
   site in the lower left anterolateral abdomen. Tract to either small or
   large
   bowel is not identified.
   Assessment and Plan
   Ms. [**Known lastname 1721**] is a 68 year old female with seizure disorder now POD 11
   from ventral hernia repair with fever, mental status change,
   leukocytosis, anemia, and tachycardia now s/p OR washout.
   .
   # Fever, leukcytosis: Leukocytosis this AM 38.7.  Continues to be
   febrile up to 102.9, both most likeyl secondary to infectious process.
   Patient taken to OR yesterday for washout/hematoma evacuation.
   Infectious source not yet isolated - wound cultures NGTD, C. diff
   negative x3, blood cultures since [**9-5**] NGTD.   Infectious work-up
   otherwise unremarkable thus far including LP, CTH, CT sinus.  Have also
   done bilateral LENIs.   Other non-infectious sources include drug
   fever, although unlikely given degree of fever and leukocytosis with
   accompanying tachycardia.  Although unlikely, also considering
   [**Location (un) 1979**]
   - Per Gen [**Doctor First Name **] preference, antimicrobial therapy held. Plan to
   reculture and attempt to isolate source.
   - Trend fever curve, WBC
   - Follow-up culture data
   - Monitor VAP, UOP, CVP and bolus as necessary
   - Discuss with ID utility of tagged WBC scan.
   - Check for rectal abscess
   - Consider 24 hour urine cortisol or dex suppression test.
   .
   # Altered mental status: Likely secondary to sepsis +/- pain.  Diffuse
   encephalopathy per EEG during admission. Unlikely to be seizure, CVA,
   or benzo withdrawal.  Patient received additional 500 mg IV dilantin
   yesterday with level this AM subtherapeutic.
   - Follow-up neurology and psychiatry
   - Continue dilaudid prn
   - Continue primidone, dilantin.  Discuss with neuro re dilantin level.
   - Per psych recs, hold off on restarting psychotropic meds at this time
   .
   # Ventral hernia repair: Patient is POD 11 from ventral hernia repair,
   LOA, and fascial release now POD 1 from hematoma evacuation/washout.
   - Follow-up with general [**Doctor First Name 91**] recs if any
   - Dilaudid prn with RR and sedation hold parameters as above.
   .
   # Anemia: Hct today is 25.3. Patient received 1u PRBC yesterday
   afternoon.  Has been transfused a total of 4u during hospital course.
   Likely represents post-op bleed in setting of baseline ACD with
   Fe/TIBC<20%.
   - Hct check Q12H
   .
   # Hyperbilirubinemia: Tbili continues to be elevated at 4.5, mostly
   conjugated with AST now elevated to 45. RUQ ultrasound negative for
   ductal dilatation.  Transaminases may be trending up with AST mildly
   elevated today.
   - Trend LFTs and bili.
   .
   # Psych: Patient with psych history significant for bipolar disorder.
   On seroquel, valium, ativan, celexa, wellbutrin, remeron at home which
   she has not been receiving while hospitalized.  Per psych, will not
   restart psychotropics for now.
   - Follow-up with pscyh recs if any
   .
   # Right hand swelling: RUE U/S showed non-occlusive DVT in RIJ and
   sublavian.  Heparin gtt started yesterday.
   - Cont heparin gtt.
   .
   # Thyroid: Gen [**Doctor First Name 91**] increased levothyroxine to 25 mcg iv daily this AM.
   .
   # Recurrent spontaneous abortions: Patient with 7 spontaneous
   miscarriages.  Family history significant for recurrent miscarriages
   and CVA concerning for hereditary thrombophilia.  It is possible that
   her mental status change was due to a new thromboembolic CNS insult,
   although this is less likely in setting of fever, leukocytosis, and
   tachycardia.
   - Lupus anticoagulant panel and ACA ab pending
   .
   # FEN: TPN held, TF started. Replete as necessary.
   .
   # PPx: Heparin SQ, PPI
   .
   # Access: LIJ
   .
   # Code: Full
   .
   # Dispo: Per gen [**Doctor First Name 91**], plan for transfer to SICU today
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2101-9-12**] 06:00 PM 62.[**Telephone/Fax (5) 1156**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2101-9-9**] 07:11 PM
   Arterial Line - [**2101-9-12**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2101-09-13 10:55:00 Physician Attending Progress Note
Chief Complaint: continued fever, leukocytosis, resp support
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his
   note above, including assessment and plan.
   24 Hour Events:
   OR course noted- no source of infection found, Dobhoff tube placed.
   Extubated last night uneventfully.
   RUQ USG yesterday unremarkable.
   Patient unable to provide history: Unresponsive
   Allergies:
   Codeine
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2101-9-12**] 07:40 PM
   Piperacillin/Tazobactam (Zosyn) - [**2101-9-13**] 05:30 AM
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2101-9-13**] 06:00 AM
   Pantoprazole (Protonix) - [**2101-9-13**] 08:11 AM
   Other medications:
   Changes to medical and family history: none since admission
   Review of systems: unobtainable
   Flowsheet Data as of  [**2101-9-13**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (102.9
   Tcurrent: 37.7
C (99.9
   HR: 107 (98 - 121) bpm
   BP: 110/52(70) {90/51(65) - 132/61(82)} mmHg
   RR: 17 (13 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  6,531 mL
                                                                  1,477 mL
   PO:
             TF:
             12 mL
   IVF:
                                                                  4,978 mL
                                                                    963 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,460 mL
                                                                    695 mL
   Urine:
                                                                    975 mL
                                                                    695 mL
   NG:
   Stool:
   Drains:
                                                                    335 mL
   Balance:
                                                                  5,071 mL
                                                                    782 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 500 (500 - 500) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 42
   PIP: 24 cmH2O
   SpO2: 99%
   ABG: 7.39/46/127/26/2
   Ve: 9.6 L/min
   PaO2 / FiO2: 318
   Physical Examination
   Responds to voice but not answering questions. Scleral icterus.
   Labs / Radiology
   8.7 g/dL
   419 K/uL
   208 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.4 mEq/L
   15 mg/dL
   106 mEq/L
   142 mEq/L
   25.3 %
   38.9 K/uL
        [image002.jpg]
                            [**2101-9-9**]  07:19 PM
                            [**2101-9-9**]  11:13 PM
                            [**2101-9-10**]  02:33 AM
                            [**2101-9-10**]  03:38 PM
                            [**2101-9-11**]  03:30 AM
                            [**2101-9-12**]  01:00 AM
                            [**2101-9-12**]  04:21 PM
                            [**2101-9-12**]  04:54 PM
                            [**2101-9-13**]  02:36 AM
                            [**2101-9-13**]  02:58 AM
   WBC
   44.4
   43.6
   42.5
   48.5
   38.7
   40.8
   38.9
   Hct
   25.1
   23.6
   24.4
   26.0
   26.9
   24.0
   29.1
   25.3
   Plt
   [**Telephone/Fax (2) 1974**]
   419
   Cr
   0.7
   0.6
   0.7
   0.7
   0.7
   0.7
   0.7
   TCO2
   26
   29
   Glucose
   95
   [**Telephone/Fax (2) 1975**]1
   105
   208
   Other labs: PT / PTT / INR:15.1/24.3/1.3, ALT / AST:19/45, Alk Phos / T
   Bili:111/4.5, Amylase / Lipase:20/22, Differential-Neuts:92.9 %,
   Band:20.0 %, Lymph:4.1 %, Mono:2.3 %, Eos:0.4 %, D-dimer:[**2048**] ng/mL,
   Fibrinogen:705 mg/dL, Lactic Acid:3.1 mmol/L, Albumin:1.9 g/dL, LDH:216
   IU/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   POD11.
   Initially in ICU due to mental status change. Fever, leukocytosis. No
   hypotension. Tachycardic. No lactic acidosis.
   Delirium with clearly lucid periods.
   Persistant leukocytosis and fever.
   Wound re-explored yesterday, though no ex-lap. CT not suggesting
   abdominal source of persistent infection.
   Summary:
   Right IJ subclavian thrombus.
   LP, head CT, abd CT (2 with IV contrast), sinus CT, UA, blood cx, urine
   cx, CSF cx, LE and RUE dopplers, RUQ USG all negative. C Diff tox neg x
   3.
   Initially on vanco/flagyl/levloflox, changed 4d ago to pip/tazo, IV and
   PO vanco, continued IV flagyl.
   Right IJ pulled [**9-8**], grew [**11-26**] coag neg staph.
   Doubt endocarditis with no pos blood cx.
   No joint inflammation, no rashes.
   Normal cortisol.
   No manifestations of adrenal insufficiency. Doubt [**Location (un) 1979**]
s but could
   consider 24 hour urine free cortisol or dexamethasone suppression test.
   This would only be useful if she suppressed cortisol, because if she
   remained elevated it could be attributed to critical illness
therefore
   ONLY negative predictive value.
   I doubt this is secondary to antibiotics, since she developed
   leukocytosis and fever prior to starting antibiotics, and with no
   change with change in antibiotics.
   Will consider whether tagged WBC scan may be helpful, though I think
   the results would be too nonspecific post-op.
   I respect the opinion of the surgical service that stopping antibiotics
   may help us determine a microbe, though I believe she has an active
   infection that we have not found.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2101-9-13**] 09:00 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2101-9-9**] 07:11 PM
   Arterial Line - [**2101-9-12**] 03:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt for UE DVT)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill